US04963543
A solution of (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(ureidocarbonylmethyl)oxymethyl]pyrrolidine (3.00 g) in a mixture of methanol (30 ml) and tetrahydrofuran (60 ml) was hydrogenated under atmospheric pressure of hydrogen at ambient temperature for 5 hours in the presence of 20% palladium hydroxide on carbon (1 g). The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give (2S,4R)-4-methanesulfonyloxy-2-[(ureidocarbonylmethyl)oxymethyl]pyrrolidine. To a solution of the compound obtained above in a mixture of tetrahydrofuran (20 ml) and water (20 ml) was dropwise added a solution of allyl chloroformate (0.82 ml) in tetrahydrofuran (2 ml) under ice-cooling with stirring, keeping the pH between 9-10 with 4N aqueous sodium hydroxide. The mixture was stirred at the same condition for 1 hour and extracted with ethyl acetate (50 ml). The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (15 g) and eluted with a mixture of methanol and chloroform (2:98 V/V) to give (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-[(ureidocarbonylmethyl)oxymethyl]pyrrolidine (1.11 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(ureidocarbonylmethyl)oxymethyl]pyrrolidine | 3.00 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(=O)NC(=O)N | C17H23N3O8S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | (2S,4R)-4-methanesulfonyloxy-2-[(ureidocarbonylmethyl)oxymethyl]pyrrolidine | CS(=O)(=O)O[C@@H]1C[C@H](NC1)COCC(=O)NC(=O)N | C9H17N3O6S
